US07902252B2
3.4. Synthesis of 5,5-difluoro-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (21)
The title compound was synthesized from methyl 5,5-difluoro-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate and lithium hydroxide monohydrate according to General Procedure 7. The material was purified by reverse-phase chromatography (MeCN/H2O, 0.05% TFA) to afford 1.6 mg of 5,5-difluoro-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid in 45.0% yield. 19F NMR (400 MHz, acetone-d6) δ ppm −86.73; LCMS-MS (ESI+) 188.0 (M+H).

reactant | methyl 5,5-difluoro-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | FC1(CC2=C(NC(=C2)C(=O)OC)C1)F | C9H9F2NO2
reactant | lithium hydroxide monohydrate | O.[OH-].[Li+]
product | 5,5-difluoro-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | 1.6 mg | FC1(CC2=C(NC(=C2)C(=O)O)C1)F | C8H7F2NO2
